data/mechanisms/records/IMS8-EQ8.1d.json
{"mechanism_id": "IMS8-EQ8.1d", "species": [{"species_id": "pent_1_ene_radical_cation", "mapped_smiles": "[CH2+:1][CH:2][CH2:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "allyl_cation", "mapped_smiles": "[CH2+:1][CH:2]=[CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:4][CH3:5]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pent_1_ene_radical_cation"]}, {"state_id": "state_products", "species_ids": ["allyl_cation", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 137, "equation": "8.1", "section": "8.1 Unimolecular ion decompositions"}, "confidence": 0.85, "curator_note": "Eq 8.1, middle pathway: the pent-1-ene molecular ion (middle folded structure, (30%), dHf/IE 9.3(9.5)) fragments by the arrow labeled 'alpha' (rate 1.7) to the neutral ethyl radical C2H5. (dHf 1.2) plus the C3H5+ allyl cation drawn as +CH2-CH=CH2 ((45%), dHf/IE 9.8(8.1)). Allylic (alpha) cleavage: the C3-C4 bond one removed from the terminal double bond breaks, ejecting the ethyl group and leaving the resonance-stabilized allyl cation. Book draws 0 curved arcs (energetics scheme). All 3 fishhooks reconstructed for balance: (1) the odd electron on C2 forms the new C2=C3 pi bond, (2) one electron of the breaking C3-C4 sigma bond also forms that pi bond, (3) the other electron of C3-C4 departs with C4 as the ethyl radical. LOCALIZATION (convention C): the book draws pent-1-ene as an intact alkene with a delocalized (+.); encoded here as the opened distonic form with the charge on the terminal C1 and the odd electron on C2. Note this is the OPPOSITE terminal-carbon localization from records IMS8-EQ8.1a/f, which need the odd electron on the terminal carbon to drive their H-abstractions -- both are legitimate resonance forms of the same pent-1-ene(+.), each chosen to give that record's arrows a real origin."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 70.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C3H5", "species_id": "allyl_cation", "step_id": "step_alpha_cleavage", "observed_mz": 41.0386, "relative_intensity": 0.45, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
